US05723075
1,4-di(benzylthiocarbamoylamino)benzene
p-Phenylenediamine (2.707 g, 25 mM) was dissolved in 20 ml of ethyl acetate, and 2 equivalents of benzylisothiocyanate (7.461 g, 50 mM) were added. The mixture was stirred at 80° C. for 30 minutes. After cooling, the reaction mixture was filtered, and washed with ethylacetate/n-hexane to obtain 6.26 g (61.6% yield) of a colorless crystal of compound A-25.

reactant | p-Phenylenediamine | 25 mM, 2.707 g | C1=CC(=CC=C1N)N | C6H8N2
reactant | benzylisothiocyanate | 50 mM, 7.461 g, 2 equivalents | C(C1=CC=CC=C1)N=C=S | C8H7NS
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 1,4-di(benzylthiocarbamoylamino)benzene | 6.26 g, 61.6% yield | C(C1=CC=CC=C1)NC(=S)NC1=CC=C(C=C1)NC(NCC1=CC=CC=C1)=S | C22H22N4S2
